US05616601
A mixture of 4-hydroxy-1-[4-(methylsulfonyl)phenyl]-2-(4-trifluoromethylphenyl)-4-trifluoromethyl-4,5-dihydro-1H-imidazole (10 mmol) and p-toluenesulfonic acid monohydrate (1 mmol) in toluene (100 mL) is heated to reflux for 72 hours. The reaction mixture is cooled and the solvent removed under reduced pressure. The crude residue is redissolved in methylene chloride and washed with water, aqueous sodium bicarbonate and brine. After drying (Na2SO4), filtration and concentration in vacuo, the crude mixture is chromatographed on silica gel using toluene/ethyl acetate to give pure 1-[4-(methylsulfonyl)phenyl]-2-(4-trifluoromethylphenyl)-4-trifluoromethyl-1H-imidazole.

reactant | 4-hydroxy-1-[4-(methylsulfonyl)phenyl]-2-(4-trifluoromethylphenyl)-4-trifluoromethyl-4,5-dihydro-1H-imidazole | 10 mmol | OC1(N=C(N(C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C18H14F6N2O3S
reactant | p-toluenesulfonic acid monohydrate | 1 mmol | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(methylsulfonyl)phenyl]-2-(4-trifluoromethylphenyl)-4-trifluoromethyl-1H-imidazole | CS(=O)(=O)C1=CC=C(C=C1)N1C(=NC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C18H12F6N2O2S
